US03996280
Preparation of 2,5-Di-(2,2,2-trifluoroethoxy)benzoyl Chloride
To 9.4 g. (30 mmoles) of 2,5-di-(2,2,2-trifluoroethoxy)benzoic acid are added 2 drops of dimethylformamide and 7.2 ml. (11.9 g., 100 mmoles) of purified thionyl chloride. The product is refluxed for 3 hours and excess thionyl chloride is removed in vacuo (steam bath/water aspirator pressure). Last traces of thionyl chloride are removed by similar vacuum distillation with added benzene. The product is 2,5-di-(2,2,2-trifluoroethoxy)benzoyl chloride according to infrared spectral measurement.

reactant | 2,5-di-(2,2,2-trifluoroethoxy)benzoic acid | 30 mmoles | FC(COC1=C(C(=O)O)C=C(C=C1)OCC(F)(F)F)(F)F | C11H8F6O4
reactant | thionyl chloride | 100 mmoles, 11.9 g | S(=O)(Cl)Cl | Cl2OS
catalyst | dimethylformamide | 2 drops | CN(C=O)C | C3H7NO
product | 2,5-Di-(2,2,2-trifluoroethoxy)benzoyl Chloride | FC(COC1=C(C(=O)Cl)C=C(C=C1)OCC(F)(F)F)(F)F | C11H7ClF6O3
